US08217032B2
Add 1M sodium methoxide (215 mL, 0.99 mol) into a solution of 6-benzyloxy-2,2-dibromo-3,4-dihydro-2H-naphthalen-1-one (205 g, 0.5 mol) in methanol (1.3 L). Heat the suspension to dissolution. Cool the reaction mixture to 0° C. and add 1N HCl (540 mL). Add H2O (3 L) and cool to 3° C. to obtain a solid. Filter and dry the solid to obtain 152 g (92%) of 6-benzyloxy-2-bromo-naphthalen-1-ol.

reactant | sodium methoxide | 0.99 mol, 1M, 215 mL | C[O-].[Na+]
reactant | 6-benzyloxy-2,2-dibromo-3,4-dihydro-2H-naphthalen-1-one | 0.5 mol, 205 g | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)=O)(Br)Br | C17H14Br2O2
reactant | HCl | 1N, 540 mL | Cl | ClH
reactant | H2O | 3 L | O | H2O
solvent | methanol | 1.3 L | CO | CH4O
product | 6-benzyloxy-2-bromo-naphthalen-1-ol | 152 g, 92% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)O)Br | C17H13BrO2
